US08183275B2
A mixture of 3-(5-bromopyridin-2-yl)propan-1-ol (2.07 g, 9.60 mmol, J. Org. Chem. 1988, 53, 386), sodium bromide (195 mg, 1.90 mmol), TEMPO (30 mg, 0.20 mmol), and trichloroisocyanuric acid (4.46 g, 19.2 mmol), acetone (90 mL) and 15% sodium bicarbonate (30 mL) was stirred at 0° C. for 15 minutes and rt for 4 h. The reaction was quenched with isopropanol (6 mL), and the resulting mixture was filtered through Celite. The filtrate was concentrated, and the resulting residue was partitioned between water (100 mL) and ethyl acetate (125 mL) with the pH of the aqueous layer adjusted to 7 with 1N HCl. The organic layer was separated and the aqueous layer extracted with ethyl acetate (3×125 mL). The extracts were concentrated and the residue was purified by flash column chromatography on silica gel eluting with 0-20% CH3OH in CH2Cl2 to give 3-(5-bromopyridin-2-yl)propionic acid. Step B: A solution of 3-(5-bromopyridin-2-yl)propionic acid (1.28 g, 5.56 mmol), intermediate 9 (887 mg, 6.12 mmol), EDC (1.61 g, 8.35 mmol), HOBt (1.13 g, 8.35 mmol) and diisopropylethylamine (4.1 mL, 23.4 mmol) in DMF (30 mL) was stirred at rt for 4 hours. The reaction mixture was diluted with water (50 mL) and extracted with ethyl acetate (3×75 mL). The extracts were washed with 5% lithium chloride (2×75 mL), dried over sodium sulfate and concentrated. The resulting residue was purified by flash column chromatography (silica gel, eluting with 0% to 5% methanol in methylene chloride) to give 3-(5-bromopyridin-2-yl)-N-(2-hydroxy-4,4-dimethylhexyl)propionamide.

reactant | 3-(5-bromopyridin-2-yl)propionic acid | 5.56 mmol, 1.28 g | BrC=1C=CC(=NC1)CCC(=O)O | C8H8BrNO2
reactant | EDC | 8.35 mmol, 1.61 g
reactant | HOBt | 8.35 mmol, 1.13 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 23.4 mmol, 4.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-(5-bromopyridin-2-yl)-N-(2-hydroxy-4,4-dimethylhexyl)propionamide | BrC=1C=CC(=NC1)CCC(=O)NCC(CC(CC)(C)C)O | C16H25BrN2O2
